US06541466B2
Synthesis of N-(3,5dimethoxyphenyl)alanine iso-butyl ester
N-(3,5-dimethoxyphenyl)alamine (crude, 454 mg) (prepared according to the procedure described in U.S. Pat. No. 3,598,859 using 3,5-dimethoxyaniline (Aldrich) and 2-chloropropionic acid (Aldrich)) was treated in dry iso-butanol (10 mL) with 0.1 mL of chlorotrimethylsilane and the reaction mixture refluxed overnight. The excess alcohol was removed at reduced pressure and the residue dissolved in ethyl acetate. The ethyl acetate solution was washed with saturated aqueous NaHCO3, dried with Na2SO4 and the solvent removed to provide the title compound. The reaction was monitored by silica gel tlc (Rf=0.3 in 20% EtOAc/hexanes). Purification was by preparative thin layer chromatography using 20% EtOAc/hexanes as the eluant.

reactant | 3,5-dimethoxyaniline | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | 2-chloropropionic acid | ClC(C(=O)O)C | C3H5ClO2
reactant | chlorotrimethylsilane | 0.1 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | iso-butanol | 10 mL | C(C(C)C)O | C4H10O
product | N-(3,5dimethoxyphenyl)alanine iso-butyl ester | C(C(C)C)OC([C@@H](NC1=CC(=CC(=C1)OC)OC)C)=O | C15H23NO4
